US06093710
A mixture of 4-acetoxy-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene (2.34 g), tosic acid monohydrate (0.13 g), and toluene (50 ml) was stirred at reflux for 2 hours. A saturated aqueous solution of sodium hydrogen carbonate was added to the reaction mixture, and then the separated organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, water, and brine, and dried over MgSO4, and then evaporated in vacuo. After evaporation of the filtrate, the resulting oil was purified by chromatography on silica gel (CHCl3 -MeOH as eluent) to give 6-ethoxycarbonyl-6,7-dihydrobenzo[b]thiophene (1.03 g) as an oil.

reactant | 4-acetoxy-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 2.34 g | C(C)(=O)OC1CC(CC=2SC=CC21)C(=O)OCC | C13H16O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-ethoxycarbonyl-6,7-dihydrobenzo[b]thiophene | 1.03 g | C(C)OC(=O)C1C=CC2=C(SC=C2)C1 | C11H12O2S
